US04879288
(c) 11-Chloro-dibenzo[b,f][1,4]thiazepine
A 2 liter round-bottom flask equipped with a magnetic stirring bar and reflux condenser with a nitrogen inlet was charged with 115.0 g (0.506 mole) of dibenzo[b,f][1,4]thiazepine-11(10-H)one, phosphorous oxychloride 700 ml (7.5 moles) and N,N-dimethylaniline 38.0 g (0.313 mole). The grey suspension was heated to gentle refluxing using a heating mantle. After 6 hours of heating, the resulting amber solution was allowed to cool to room temperature (from about 18°-25°C.) and was analyzed by thin-layer chromatography (TLC) using silica gel plates, developed with ether-hexane (1:1) and detected with ultraviolet light. Analysis revealed the desired imino chloride, Rf =0.70, and an absence of starting lactam.

reactant | dibenzo[b,f][1,4]thiazepine-11(10-H)one | 0.506 mole, 115.0 g | C1=CC=CC2=C1C(NC1=C(S2)C=CC=C1)=O | C13H9NOS
reactant | phosphorous oxychloride | 7.5 moles, 700 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 0.313 mole, 38.0 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | imino chloride | N(Cl)Cl | Cl2HN
product | 11-Chloro-dibenzo[b,f][1,4]thiazepine | ClC1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H8ClNS
